US07981903B2
Step C/Intermediate B154: 6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone
To 6-hydroxy-3,4-dihydro-2(1H)-quinolinone (90.8 g, 0.56 mol, 1 equiv) in CH3CN (2 L) was added potassium carbonate (230.67 g, 1.67 mol, 3 equiv). The mixture was stirred for 1 h at 25° C., then Mel (75 g, 0.53 mol, 0.95 equiv) was added and the mixture was maintained at 60° C. for 12 hours. The mixture was filtered and the filtrate was taken to a residue under reduce pressure. The crude 6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone was directly use to the next step. (128 g, crude) 1H NMR (400 MHz, DMSO) δ, 2.34-2.38 (m, 2 H), 2.79 (t, 2 H, J=7.2 Hz), 3.65 (s, 3 H), 6.67 (m, 1H), 6.72-6.75 (m, 2 H), 9.86 (br, 1 H). This procedure was reproduced multiple times to prepare >300 g quantities of 6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone.

reactant | 6-hydroxy-3,4-dihydro-2(1H)-quinolinone | 0.56 mol, 90.8 g, 1 equiv | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | potassium carbonate | 1.67 mol, 230.67 g, 3 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 2 L | CC#N | C2H3N
product | 6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone | COC=1C=C2CCC(NC2=CC1)=O | C10H11NO2
